US07547691B2
(A). Preparation of 6-methylsulfanylbenzo[b]thiophene
A mixture of 6-bromobenzo[b]thiophene (2.0 g, 9.4 mmol) and sodium thiomethoxide (1.30 g, 18.8 mmol) in DMF (15 mL) is stirred at 90° C. under nitrogen for 6 hours. The reaction is cooled to room temperature, extracted with ethyl acetate and saturated aqueous sodium chloride, washed with 2 N aqueous NaOH solution, saturated aqueous sodium chloride, dried over Na2SO4, filtered, and evaporated. The residue is purified by chromatography on silica gel, eluting with ethyl acetate:hexanes 3:7, to give the title product as a red liquid (1.41 g) which is used for next reaction without further purification.

reactant | 6-bromobenzo[b]thiophene | 9.4 mmol, 2.0 g | BrC=1C=CC2=C(SC=C2)C1 | C8H5BrS
reactant | sodium thiomethoxide | 18.8 mmol, 1.30 g | C[S-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 6-methylsulfanylbenzo[b]thiophene | 1.41 g | CSC=1C=CC2=C(SC=C2)C1 | C9H8S2
